US05189054
Mix 3-[(phenacyl)amino]-2-carbethoxy-6-nitroindole (0.5 mmol), di-tert-butyl dicarbonate (0.52 mmol), tetrahydrofuran, dimethylaminopyridine (mg, mmol) and stir overnight. Dilute the reaction with ethyl acetate, wash with 1M HCl, water, dry over magnesium sulfate, filter and concentrate in vacuo to yield the 3-[(phenacyl)amino]-2-carbethoxy-6-nitro-1-(tert-butyloxycarbonyl)-indole.

reactant | 3-[(phenacyl)amino]-2-carbethoxy-6-nitroindole | 0.5 mmol | C(C(=O)C1=CC=CC=C1)NC1=C(NC2=CC(=CC=C12)[N+](=O)[O-])C(=O)OCC | C19H17N3O5
reactant | di-tert-butyl dicarbonate | 0.52 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(phenacyl)amino]-2-carbethoxy-6-nitro-1-(tert-butyloxycarbonyl)-indole | C(C(=O)C1=CC=CC=C1)NC1=C(N(C2=CC(=CC=C12)[N+](=O)[O-])C(=O)OC(C)(C)C)C(=O)OCC | C24H25N3O7
